US05618808
B. S-(o-Nitrophenyl)-N-acetyl-D-cysteine
A mixture of 9.28 g (56.9 mmol) of (S)-N-acetyl-cysteine, 7.43 mL (70.5 mmol) of 1-fluoro-2-nitrobenzene and 13.66 g (163 mmol) of sodium bicarbonate was refluxed in 136 mL of ethanol and 41 mL of water for 3 hours. The mixture was cooled to room temperature and the solvent evaporated. The residue was dissolved in 136 mL of water and extracted with ether. The water solution was then acidified to pH=1with 12N hydrochloric acid (HCl). The resulting yellow precipitate was filtered to yield 13.6 g (84%) of product.

reactant | (S)-N-acetyl-cysteine | 56.9 mmol, 9.28 g | C(C)(=O)N[C@H](CS)C(=O)O | C5H9NO3S
reactant | 1-fluoro-2-nitrobenzene | 70.5 mmol, 7.43 mL | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | sodium bicarbonate | 163 mmol, 13.66 g | C([O-])(O)=O.[Na+]
reactant | water | 41 mL | O | H2O
solvent | ethanol | 136 mL | C(C)O | C2H6O
product | S-(o-Nitrophenyl)-N-acetyl-D-cysteine | 13.6 g, 84% | [N+](=O)([O-])C1=C(C=CC=C1)SC[C@@H](NC(C)=O)C(=O)O | C11H12N2O5S
